US06495576B2
3-Ethoxy-4[(2-methoxypyridin-3yl)amino]cyclobut-3-ene-1,2dione
A solution of 3-amino-2-methoxypyridine and 3,4-diethoxy-3-cyclobutene-1,2-dione in ethanol was processed as described in Example 62A to provide the title compound.

reactant | 3-amino-2-methoxypyridine | NC=1C(=NC=CC1)OC | C6H8N2O
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | C(C)O | C2H6O
product | 3-Ethoxy-4[(2-methoxypyridin-3yl)amino]cyclobut-3-ene-1,2dione | C(C)OC=1C(C(C1NC=1C(=NC=CC1)OC)=O)=O | C12H12N2O4
